US05703107
Scheme I, step f: 3-[(phenacyl)amino]-2-carbmethoxy-6-chloroindole
Dissolve 3-[(phenacyl)methylamino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole from above in methylene chloride (3 mL). Add trifluoracetic acid (1 mL) and stir for 2 hours. Dilute into ethyl acetate and rinse with saturated sodium bicarbonate. Dry the organic phase over magnesium sulfate, filter and concentrate in vacuo to yield the title compound.

reactant | 3-[(phenacyl)methylamino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole | C(C(=O)C1=CC=CC=C1)CNC1=C(N(C2=CC(=CC=C12)Cl)C(=O)OC(C)(C)C)C(=O)OC | C24H25ClN2O5
reactant | trifluoracetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[(phenacyl)amino]-2-carbmethoxy-6-chloroindole | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C18H15ClN2O3
